US04303662
A mixture of methyl 2-methyl-3-mercaptoproponate (1.34 g, 10 mmol) and methanol (0.42 g, 10 mmole) is added to a mixture of bis(2,2,2-trifluoroethoxy)triphenylphosphorane (11 mmole) [prepared in situ from triphenylphosphine (12 mmole) and sodium 2,2,2-trifluoroethoxide (24 mmole) in dry diethyl ether (20 ml)] in dichloromethane (20 ml). After 20 hours stirring at room temperature the mixture is poured into water and extracted with ether. The ether extract is washed with 5% aqueous sodium hydroxide and dried over magnesium sulfate. The solution is evaporated, solids removed byy filtration and the oily residue purified by vacuum distillation yielding methyl-3-methylthio-2-methylpropanoate.

reactant | methyl 2-methyl-3-mercaptoproponate | 10 mmol, 1.34 g | CC(C(=O)OC)CS | C5H10O2S
reactant | methanol | 10 mmole, 0.42 g | CO | CH4O
reactant | bis(2,2,2-trifluoroethoxy)triphenylphosphorane | 11 mmole, 20 ml | FC(COP(C1=CC=CC=C1)(C1=CC=CC=C1)(C1=CC=CC=C1)OCC(F)(F)F)(F)F | C22H19F6O2P
reactant | water | O | H2O
solvent | dichloromethane | 20 ml | ClCCl | CH2Cl2
product | methyl-3-methylthio-2-methylpropanoate | COC(C(CSC)C)=O | C6H12O2S
